US06951879B2
According to the method in example 18, Methanesulfonic acid 5-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester and Azetidine were converted to yield 6-(5-Azetidin-1-yl-pent-1-ynyl)-3-(4-chloro-phenyl)-benzo[d]isothiazole, MS: 367 (MH+).

reactant | Methanesulfonic acid 5-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCOS(=O)(=O)C | C19H16ClNO3S2
reactant | Azetidine | N1CCC1 | C3H7N
product | 6-(5-Azetidin-1-yl-pent-1-ynyl)-3-(4-chloro-phenyl)-benzo[d]isothiazole | N1(CCC1)CCCC#CC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Cl)C=C1 | C21H19ClN2S
